US07825253B2
(5-Methyl-furan-2-ylmethyl)-[5-(pyridin-3-ylaminomethyl)-quinolin-2-yl]-amine
2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinoline-5-carbaldehyde (100 mg, 0.376 mmol) was dissolved in 5 mL ethylendichloride. 3-Aminopyridine (50 mg, 0.532 mmol) and acetic acid (90 mg, 1.50 mmol) were added. The reaction mixture was stirred at room temperature for 1 h. Sodium triacetoxy borohydride (172 mg, 0.811 mmol) was added and stirring was continued overnight. The reaction mixture was quenched by addition of 50 mL water. The mixture was extracted three times with dichloromethane (50 mL each). The organic phases ware pooled, dried with sodium sulfate, filtered and evaporated. The crude product was recrystallized from dichloromethane. The title compound was obtained as a white solid (50 mg, 39%), MS: m/e=345.0 (M+H+).

reactant | 2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinoline-5-carbaldehyde | 0.376 mmol, 100 mg | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)C=O | C16H14N2O2
reactant | 3-Aminopyridine | 0.532 mmol, 50 mg | NC=1C=NC=CC1 | C5H6N2
reactant | acetic acid | 1.50 mmol, 90 mg | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxy borohydride | 0.811 mmol, 172 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethylendichloride | 5 mL | C(CCl)Cl | C2H4Cl2
product | (5-Methyl-furan-2-ylmethyl)-[5-(pyridin-3-ylaminomethyl)-quinolin-2-yl]-amine | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)CNC=1C=NC=CC1 | C21H20N4O
